US04489003
A mixture of 4.0 g (7.3 mmol) of tert.butyl (S)-7,8-dichloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 10 ml (126 mmol) of hydroxymethyl-cyclopropane and 1 g (3 mmol) of tetraethyl orthotitanate is stirred at 125° overnight, the mixture is evaporated and the residue is taken up in chloroform. The solution is stirred for 0.5 hour with 30 ml of a saturated potassium fluoride solution and the mixture is filtered through siliceous earth. The organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By crystallization from ethyl acetate there is obtained cyclopropylmethyl (S)-7,8-dichloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 185°-186°.

reactant | tert.butyl (S)-7,8-dichloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 7.3 mmol, 4.0 g | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OC(C)(C)C)CCC3)=O)C1Cl | C19H19Cl2N3O3
reactant | hydroxymethyl-cyclopropane | 126 mmol, 10 ml | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 3 mmol, 1 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl (S)-7,8-dichloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)OCC4CC4)CCC3)=O)C1Cl | C19H17Cl2N3O3
